US09290468B2
Methyl 3,4-difluoro-2-((2-fluorophenyl)amino)-5-((4-methoxy benzyl)thio)benzoate can be reacted with azide (such as NaN3, KN3) at high temperature (60-120° C., prefer 80-100° C.) in appropriate solvent (include aliphatic and aromatic hydrocarbon (such as pentane, hexane, heptane, cyclohexane, petroleum ether, petrol, gasoline, benzene, toluene, xylene), aliphatic and aromatic halo-hydrocarbon (such as dichloromethane, 1,2-dichloroethane, chloroform, phenixin, chlorobenzene, o-dichlorobenzene), ether (such as diethyl ether, dibutyl ether, glycol dimethyl ether, 2-methoxyethyl ether, tetrahydrofuran, dioxane), ketone (such as acetone, methyl ethyl ketone, methyl isopropyl ketone, methyl isobutyl ketone), ester (such as ethyl acetate, methyl acetate), nitrile (such as acetonitrile, propiononitrile), amide (such as N,N-dimethylformamide, N,N-dimethylacetamide and N-methylpyrrolidin-2-one), DMSO, sulfolane, HMPA, DMPU, prefer N,N-dimethylformamide and N,N-dimethylacetamide) for some time (1-12 h, prefer 3-10 h). Methyl 4-azido-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate is obtained after conventional workup.

reactant | Methyl 3,4-difluoro-2-((2-fluorophenyl)amino)-5-((4-methoxy benzyl)thio)benzoate | FC=1C(=C(C(=O)OC)C=C(C1F)SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F | C22H18F3NO3S
reactant | azide | [N-]=[N+]=[N-]
reactant | ether | CCOCC | C4H10O
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | DMSO | CS(=O)C | C2H6OS
product | Methyl 4-azido-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F)F | C22H18F2N4O3S
